US04939126
N-[2-[(isopropyl)(trimethylsilylmethyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide
A mixture of 5.00 g (22.0 mmol) of N-[2-(isopropylamino)ethyl]-2-oxo-pyrrolidineacetamide, 8.10 g (66.0 mmol) of trimethylsilylmethyl chloride, 30 ml of triethylamine and 50 ml of N,N-dimethylformaide was stirred at 150° C. for 24 hours in a shield tube. After cooled, the reaction mixture was concentrated in vacuo and chromatographed the residue on alumina column to afford 3.5 g (Yield: 51.3%) of the desired compound as colorless oil.

reactant | N-[2-(isopropylamino)ethyl]-2-oxo-pyrrolidineacetamide | 22.0 mmol, 5.00 g | C(C)(C)NCCNC(CN1C(CCC1)=O)=O | C11H21N3O2
reactant | trimethylsilylmethyl chloride | 66.0 mmol, 8.10 g | C[Si](C)(C)CCl | C4H11ClSi
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | N-[2-[(isopropyl)(trimethylsilylmethyl)amino]ethyl]-2-oxo-1-pyrrolidineacetamide | 3.5 g, Yield: 51.3% | C(C)(C)N(CCNC(CN1C(CCC1)=O)=O)C[Si](C)(C)C | C15H31N3O2Si
